US07514437B2
To a solution of (2R)-[(tert-butoxycarbonyl)amino](2,3-dihydro-1H-inden-2-yl)ethanoic acid (419 mg) in dry tetrahydrofuran (5 ml) at −20° C. under a nitrogen atmosphere was added N-methylmorpholine (158 μl) and a solution of isopropylchloroformate in toluene (1.0M, 1.44 ml). After 10 minutes, a solution of N-[1-(benzofuran-5-yl)-2-(dimethylamino)-2-oxoethyl]-L-leucine (478 mg) in dimethylformamide (5 ml) was added and the reaction was allowed to warm to room temperature. After 20 hours, the solvent was removed in vacuo and the residue was dissolved in 4N hydrochloric acid in dioxan (4 ml). After 4 hours methanol (13 ml) was added and the reaction was left to stand for a further 18 hours. The solvent was then removed in vacuo and the residue was separated between dichloromethane and saturated sodium bicarbonate solution. The organic phase was evaporated in vacuo and the residue was applied to an SPE (10 g, silica). The product was eluted using an ethyl acetate:methanol gradient (3:1 to 1:3) to afford (2R)-2-(benzofuran-5-yl-2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N,N-dimethylethanamide (51 mg).

reactant | (2R)-[(tert-butoxycarbonyl)amino](2,3-dihydro-1H-inden-2-yl)ethanoic acid | 419 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1CC2=CC=CC=C2C1 | C16H21NO4
reactant | N-methylmorpholine | 158 μl | CN1CCOCC1 | C5H11NO
reactant | isopropylchloroformate | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | N-[1-(benzofuran-5-yl)-2-(dimethylamino)-2-oxoethyl]-L-leucine | 478 mg | O1C=CC2=C1C=CC(=C2)C(C(=O)N(C)C)N[C@@H](CC(C)C)C(=O)O | C18H24N2O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | toluene | 1.0M, 1.44 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | benzofuran-5-yl-2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N,N-dimethylethanamide | 51 mg | O1C=CC2=C1C=CC(=C2)C(C(=O)N(C)C)N2C([C@H](NC([C@H]2CC(C)C)=O)C2CC1=CC=CC=C1C2)=O | C29H33N3O4
